US04518597
7-[4-(2-Pyridylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 210 from 7-(4-methanesulfonyloxy-butoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 2-mercapto-pyridine.

reactant | 7-(4-methanesulfonyloxy-butoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | CS(=O)(=O)OCCCCOC1=CC2=C(C(OC(N2)=O)(C)C)C=C1 | C15H21NO6S
reactant | 2-mercapto-pyridine | SC1=NC=CC=C1 | C5H5NS
product | 7-[4-(2-Pyridylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | N1=C(C=CC=C1)SCCCCOC1=CC2=C(C(OC(N2)=O)(C)C)C=C1 | C19H22N2O3S
